2142-05-21 07:25:00 Physician Resident Progress Note
Chief Complaint: HTN, abd pain
   24 Hour Events:
 DIALYSIS CATHETER - START [**2142-5-20**] 08:19 PM
   - tried to titrate off nicardipine gtt, but BP would return to 200's
   - still complaining of abd pain/N with guaiac negative emesis
   - trace guaiac positive brown stool X 1
   By this morning, she states that her abd pain has improved. No
   headache, visions changes, nausea is also improved
   -- off nicardipine gtt
   Allergies:
   Penicillins
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Morphine
   Itching;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Clonidine patch
   Nifedipine
   Lidoderm patch
   Labetalol
   Protonix
   Prednisone
   Hydralazine
   Fentanyl patch
   Aliskerin
   Celexa
   Neurontin
   Coumadin
   Sevelamer
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-5-21**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 103 (91 - 106) bpm
   BP: 134/92(102) {134/92(102) - 236/152(167)} mmHg
   RR: 25 (17 - 26) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                     23 mL
                                                                     30 mL
   PO:
             TF:
   IVF:
                                                                     23 mL
                                                                     30 mL
   Blood products:
   Total out:
                                                                    250 mL
                                                                    525 mL
   Urine:
                                                                    100 mL
                                                                    125 mL
   NG:
                                                                    150 mL
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                   -227 mL
                                                                   -495 mL
   Respiratory support
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   GENERAL: lying in bed sleeping, NAD
   HEENT: Normocephalic, atraumatic. s/p left eye enucleation.
   PERRLA/EOMI.
   CARDIAC: RRR. 3/6 systolic murmur heard best at the RUSB.
   LUNGS: Breathing comfortably, CTAB, good air movement biaterally.
   ABDOMEN: + BS, soft ND, tenderness to palpation in her LUQ. No rebound
   or guarding.
   EXTREMITIES: No edema. Right femoral HD line nontender,
   nonerythematous.
   NEURO: A&Ox3. Appropriate. Preserved sensation to light touch
   throughout. 5/5 strength in her upper and lower extremities
   Labs / Radiology
   175 K/uL
   13.1 g/dL
   122 mg/dL
   7.9 mg/dL
   23 mEq/L
   6.4 mEq/L
   52 mg/dL
   101 mEq/L
   138 mEq/L
   40.5 %
   8.7 K/uL
        [image002.jpg]
                             [**2142-5-20**]  08:55 PM
                             [**2142-5-20**]  09:13 PM
                             [**2142-5-21**]  05:29 AM
   WBC
   7.0
   6.8
   8.7
   Hct
   34.2
   33.7
   40.5
   Plt
   126
   145
   175
   Cr
   7.7
   7.9
   Glucose
   98
   122
   Other labs: PT / PTT / INR:14.5/30.1/1.3, Lactic Acid:0.9 mmol/L,
   Ca++:9.6 mg/dL, Mg++:2.2 mg/dL, PO4:7.1 mg/dL
   Assessment and Plan
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   24 yo female with ESRD on HD, malignant hypertension with hx of
   intracerebral hemorrhage, SLE, chronic abdominal pain, and SVC syndrome
   admitted due to hypertensive urgency after developing N/V and being
   unable to take her po medications.
   .
   # Hypertensive urgency: This is chronic issue related to ESRD. Head CT
   was negative for intracranial bleed.
   - Continue her home regimen of: Aliskiren 150 mg po bid, Clonidine 0.4
   mg/24 hr Patch Weekly, Labetalol 1000 mg po TID, Nifedipine 60 mg
   Tablet Sustained Release QPM and 90 mg Tablet Sustained Release QAM,
   Hydralazine 100 mg PO Q8H
   - weaned off nicardipine gtt today
   - When SBP>180, give 25 mg PO hydral every 30 min until SBP<150. You
   can use this for up to 2-3 hours. In between PO hydral doses, can then
   also use 10 IV hydralazine.
   - aggressive pain control, which will help her BP
   .
   # Abdominal pain/Diarrhea: The patient has chronic abdominal pain with
   previous negative workups; however, her current pain appears different
   from her chronic pain. On exam she is very tender to palpation. There
   is no rebound or guarding. LFTs at baseline.
   - Continue her outpatient management of her chronic pain: 2-4 mg po
   dilaudid q4 h as needed.
   - do not use IV dilaudid
   - if does not improve with improvement of BP, then would CT abd
   - lactate normal
   - GI consult given diarrhea, ? need for colonoscopy
   .
   # Nausea/vomiting: Not currently nauseous. Her symptoms may have been
   secondary to her hypertension. Denies other symptoms suggestive of
   infection or sick contacts.
   - Zofran and compazine prn for nausea control.
   .
   # ESRD on HD: Hyperkalemia. Underwent dialysis yesterday. Per renal,
   would like to HD today
   - Appreciate renal consult, will f/u recs.
   - Renal diet, kayexalate prn for hyperkalemia.
   - Phos binder started today, to get HD today
   .
   # SLE: Stable, without current symptoms.
   - Continue outpatient regimen of 4 mg of prednisone daily.
   .
   # Anemia of chronic renal disease: Her Hct was 29 on admission.
   - Epo at HD per renal.
   .
   # History of thrombotic events/SVC syndrome: She is anticoagulated with
   warfarin as an outpatient. Previous documentation in OMR states she
   does not need to be bridged while subtherapeutic.
   - Continue coumadin 4 mg po daily.
   - follow INR
   .
   # OSA: She is on CPAP at a setting of 7 as an outpatient.
   - Continue CPAP
   ICU Care
   Nutrition: Renal diet when able
   Glycemic Control:
   Lines:
   20 Gauge - [**2142-5-20**] 08:18 PM
   Dialysis Catheter - [**2142-5-20**] 08:19 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: home PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU for now, consider call-out in PM

2142-05-22 07:39:00 Physician Resident Progress Note
Chief Complaint:
My belly feels much better
.  Reports significant
   improvement in abdominal pain.
   24 Hour Events:
   - Serum hCG negative
   - Weaned off nicardipine gtt
   - Underwent HD with improvement of BP
   - GI c/s re: abdominal pain.  Recommended:
      - CTA-abdomen to eval for mesenteric ischemia vs. partial SBO; if
   not able, check KUB to r/o partial SBO
      - Check urine porphyrobilinogen and serum lead levels, follow LFTs.
   Allergies:
   Penicillins
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Morphine
   Itching;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-5-22**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.2
C (99
   HR: 73 (73 - 105) bpm
   BP: 105/52(66) {94/50(57) - 165/114(126)} mmHg
   RR: 17 (12 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    230 mL
                  PO:
                                                                    200 mL
                  TF:
   IVF:
                                                                     30 mL
   Blood products:
   Total out:
                                                                  1,075 mL
                                                                      0 mL
   Urine:
                                                                    125 mL
   NG:
                                                                    400 mL
   Stool:
                                                                    550 mL
   Drains:
   Balance:
                                                                   -845 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   GENERAL: Lying in bed sleeping, easily awoken, NAD
   HEENT: Normocephalic, atraumatic. s/p left eye enucleation.
   PERRLA/EOMI.
   CARDIAC: RRR. 3/6 systolic murmur heard best at the RUSB.
   LUNGS: Breathing comfortably, CTAB, good air movement biaterally.
   ABDOMEN: + BS, soft ND, tenderness to palpation in her LUQ. No rebound
   or guarding.
   EXTREMITIES: No edema. Right femoral HD line nontender,
   nonerythematous.
   NEURO: A&Ox3. Appropriate. Preserved sensation to light touch
   throughout. 5/5 strength in her upper and lower extremities
   Labs / Radiology
   86 K/uL
   7.9 g/dL
   97 mg/dL
   7.1 mg/dL
   25 mEq/L
   4.5 mEq/L
   61 mg/dL
   97 mEq/L
   135 mEq/L
   25.8 %
   6.1 K/uL
        [image002.jpg]
                             [**2142-5-20**]  08:55 PM
                             [**2142-5-20**]  09:13 PM
                             [**2142-5-21**]  05:29 AM
                             [**2142-5-22**]  04:11 AM
   WBC
   7.0
   6.8
   8.7
   6.1
   Hct
   34.2
   33.7
   40.5
   25.8
   Plt
   126
   145
   175
   86
   Cr
   7.7
   7.9
   7.1
   Glucose
   98
   122
   97
   Other labs: PT / PTT / INR:17.1/33.5/1.5, ALT / AST:13/41, Alk Phos / T
   Bili:66/0.3, Amylase / Lipase:169/27, Lactic Acid:0.9 mmol/L,
   Albumin:3.5 g/dL, LDH:209 IU/L, Ca++:9.0 mg/dL, Mg++:1.7 mg/dL, PO4:7.0
   mg/dL
   Assessment and Plan
   24 yo female with ESRD on HD, malignant hypertension with hx of
   intracerebral hemorrhage, SLE, chronic abdominal pain, and SVC syndrome
   admitted due to hypertensive urgency after developing N/V and being
   unable to take her po medications.
   .
   # Hypertensive urgency: This is chronic issue related to ESRD. Head CT
   was negative for intracranial bleed.
   - Continue her home regimen of: Aliskiren 150 mg po bid, Clonidine 0.4
   mg/24 hr Patch Weekly, Labetalol 1000 mg po TID, Nifedipine 60 mg
   Tablet Sustained Release QPM and 90 mg Tablet Sustained Release QAM,
   Hydralazine 100 mg PO Q8H
   - weaned off nicardipine gtt today
   - When SBP>180, give 25 mg PO hydral every 30 min until SBP<150. You
   can use this for up to 2-3 hours. In between PO hydral doses, can then
   also use 10 IV hydralazine.
   - aggressive pain control, which will help her BP
   .
   # Abdominal pain/Diarrhea: The patient has chronic abdominal pain with
   previous negative workups; however, her current pain appears different
   from her chronic pain. On exam she is very tender to palpation. There
   is no rebound or guarding. LFTs at baseline.
   - Continue her outpatient management of her chronic pain: 2-4 mg po
   dilaudid q4 h as needed.
   - do not use IV dilaudid
   - if does not improve with improvement of BP, then would CT abd
   - lactate normal
   - GI consult given diarrhea, ? need for colonoscopy
   .
   # Nausea/vomiting: Not currently nauseous. Her symptoms may have been
   secondary to her hypertension. Denies other symptoms suggestive of
   infection or sick contacts.
   - Zofran and compazine prn for nausea control.
   .
   # ESRD on HD: Hyperkalemia. Underwent dialysis yesterday. Per renal,
   would like to HD today
   - Appreciate renal consult, will f/u recs.
   - Renal diet, kayexalate prn for hyperkalemia.
   - Phos binder started today, to get HD today
   .
   # SLE: Stable, without current symptoms.
   - Continue outpatient regimen of 4 mg of prednisone daily.
   .
   # Anemia of chronic renal disease: Her Hct was 29 on admission.
   - Epo at HD per renal.
   .
   # History of thrombotic events/SVC syndrome: She is anticoagulated with
   warfarin as an outpatient. Previous documentation in OMR states she
   does not need to be bridged while subtherapeutic.
   - Continue coumadin 4 mg po daily.
   - follow INR
   .
   # OSA: She is on CPAP at a setting of 7 as an outpatient.
   - Continue CPAP
   ICU Care
   Nutrition: Renal diet when able
   Glycemic Control:
   Lines:
   20 Gauge - [**2142-5-20**] 08:18 PM
   Dialysis Catheter - [**2142-5-20**] 08:19 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: home PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU for now, consider call-out in PM

2142-05-22 10:30:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan as detailed in my note below.
   Chief Complaint: HTN urgency
   HPI: 24 yo female with ESRD on HD, malignant hypertension with hx of
   intracerebral hemorrhage, SLE, chronic abdominal pain, and SVC syndrome
   admitted due to hypertensive urgency after developing N/V and being
   unable to take her po medications.
   24 Hour Events:
   GI recommended CT scan abdomen
   HD performed
   Check prohyrins and serum led level
   receiveing dilauded for abdomina pain.
   Allergies:
   Penicillins
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Morphine
   Itching;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   clonidine
   lidocaine patch
   nifedapine [**Hospital1 **]
   labetolol
   protonix
   pred 4mg Q day
   hydralazine
   fentyl patch
   celexa
   Aliskiren
   neurontin
   coumadin
   selemer
   PRNS
   dilauded
   hydral IV
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-5-22**] 10:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.8
   HR: 84 (73 - 105) bpm
   BP: 119/71(83) {94/50(57) - 163/114(126)} mmHg
   RR: 17 (12 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    230 mL
                                                                    120 mL
   PO:
                                                                    200 mL
                                                                    120 mL
   TF:
   IVF:
                                                                     30 mL
   Blood products:
   Total out:
                                                                  1,075 mL
                                                                      0 mL
   Urine:
                                                                    125 mL
   NG:
                                                                    400 mL
   Stool:
                                                                    550 mL
   Drains:
   Balance:
                                                                   -845 mL
                                                                    120 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   Gen: thin young female, lying on side, awakens to voice
   HEENT: No scleral icterus. s/p left eye enucleation. EOMI. MMM. OP
   clear.
   Heart: RRR. 4/6 systolic murmur heard best at the RUSB.
   Lungs: Breathing comfortably, CTAB, good air movement biaterally.
   Abd: + BS, soft TTP throughout but mostly epigastric. No rebound or
   guarding.
   Ext: No edema. Right femoral HD line nontender, nonerythematous.
   Neuro: A&Ox3. Appropriate. CN 2-12 grossly intact. Preserved sensation
   to light touch throughout. 5/5 strength in her upper and lower
   extremities
   Labs / Radiology
   7.9 g/dL
   86 K/uL
   97 mg/dL
   7.1 mg/dL
   25 mEq/L
   4.5 mEq/L
   61 mg/dL
   97 mEq/L
   135 mEq/L
   25.8 %
   6.1 K/uL
        [image002.jpg]
                             [**2142-5-20**]  08:55 PM
                             [**2142-5-20**]  09:13 PM
                             [**2142-5-21**]  05:29 AM
                             [**2142-5-22**]  04:11 AM
   WBC
   7.0
   6.8
   8.7
   6.1
   Hct
   34.2
   33.7
   40.5
   25.8
   Plt
   126
   145
   175
   86
   Cr
   7.7
   7.9
   7.1
   Glucose
   98
   122
   97
   Other labs: PT / PTT / INR:17.1/33.5/1.5, ALT / AST:13/41, Alk Phos / T
   Bili:66/0.3, Amylase / Lipase:169/27, Lactic Acid:0.9 mmol/L,
   Albumin:3.5 g/dL, LDH:209 IU/L, Ca++:9.0 mg/dL, Mg++:1.7 mg/dL, PO4:7.0
   mg/dL
   Assessment and Plan
   24 yo female with ESRD on HD, malignant hypertension with hx of
   intracerebral hemorrhage, SLE, chronic abdominal pain, and SVC syndrome
   admitted due to hypertensive urgency after developing N/V and being
   unable to take her po medications.
   # Hypertensive urgency:
   -Continue outpatient medications
   -Hydralazine prn
   # Abdominal pain/Diarrhea:
   -Chronic issue did report pain improved.
   -Will clarify how much pain meds she is taking as narcotic withdrawal
   could explain these symptoms.  If she has not been using her fentyl
   patch appropriately she could be withdrawing.
   -Will ask GI to weigh to see if she would benefit from  Sigmoidoscopy
   scan, lead and porphyrins pending.
   # Nausea/vomiting:
   -Continue prn meds
   -No IV dilaudid per PCP
   [**Name9 (PRE) **] HcG serum
   # ESRD on HD:
   -Contiue dialysis
   -Continue renal diet and phos binder
   -Cont K exalate
   # SLE:
   - Continue outpatient regimen of 4 mg of prednisone daily.
   # Anemia of chronic renal disease: Her Hct was 29 on admission.
   - Epo at HD per renal.
   # History of thrombotic events/SVC syndrome: She is anticoagulated with
   warfarin as an outpatient. Previous documentation in OMR states she
   does not need to be bridged while subtherapeutic.
   - Continue coumadin 4 mg po daily.
   - check INR
   # OSA: She is on CPAP at a setting of 7 as an outpatient.
   - Continue CPAP
   #Multiple medical admission
   -Will get social work involved
   -Would consider VNA to help with medications at home and home med
   counts
   -Will also consider narcotic withdrawal.
   -I suspect there is a med compliance/narcotic missuse as the etiology
   of her decompensations given that she responds very well to treatment
   while in the hospital. Possibility of psychiatric consultation if this
   continues
   ICU Care
   Nutrition: renal diet
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2142-5-20**] 08:19 PM
   20 Gauge - [**2142-5-21**] 07:15 AM
   Prophylaxis:
   DVT: Coumadin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :Floor
   Total time spent:  25 mins